US04299769
As for Example 6, 3-(2-quinolylcarbonyl)propionic acid (0.01 mole) is coupled to L-proline (0.011 mole) with 1,1'-carbonyldiimidazole (0.01 mole) in tetrahydrofuran to give 1-[3-(2-quinolylcarbonyl)propionyl]-L-proline. Bromination of the preceding compound and reaction of the resulting compound with sodium thioacetate gives the product of the Example.

reactant | 3-(2-quinolylcarbonyl)propionic acid | 0.01 mole | N1=C(C=CC2=CC=CC=C12)C(=O)CCC(=O)O | C13H11NO3
reactant | L-proline | 0.011 mole | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 1,1'-carbonyldiimidazole | 0.01 mole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[3-(2-quinolylcarbonyl)propionyl]-L-proline | N1=C(C=CC2=CC=CC=C12)C(=O)CCC(=O)N1[C@H](C(=O)O)CCC1 | C18H18N2O4
